US05707987
A solution of 3-(tetrahydropyranyloxymethyl)bromobenzene (11.8 g, 43.5 mmol) in tetrahydrofuran (20 ml) was added dropwise to a solution of 1.6M n-butyl lithium-hexane solution (30 ml, 48 mmol) in tetrahydrofuran (100 ml) at -78° C. in a nitrogen stream over 15 minutes. This reaction solution was stirred at -78° C. for 40 minutes and then a solution of (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal (7.2 g, 21.9 mmol) in tetrahydrofuran (20 ml) was added dropwise over 20 minutes. The reaction solution was stirred at -78° C. for 30 minutes and then allowed to gradually warm and saturated aqueous ammonium chloride was added thereto. This solution was poured into a liquid mixture of ethyl acetate with water and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resulting oily residue was subjected to silica gel column chromatography (Wakogel™ C-300, heptane-ethyl acetate=6:1) to give (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-[α-hydroxy-3-(tetrahydropyranyloxymethyl)benzyl]pyrrolidine (6.3 g, yield: 55.0%) as a yellow oily substance.

reactant | 3-(tetrahydropyranyloxymethyl)bromobenzene | 43.5 mmol, 11.8 g | O1C(CCCC1)OCC=1C=C(C=CC1)Br | C12H15BrO2
reactant | (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal | 21.9 mmol, 7.2 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-[α-hydroxy-3-(tetrahydropyranyloxymethyl)benzyl]pyrrolidine | 6.3 g, yield: 55.0% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(C1=CC(=CC=C1)COC1OCCCC1)O | C28H47NO6Si
